US08937078B2
Step B: Preparation of 2-(2-chloro-4-amino-phenyl)-1,2,3,4-tetrahydro-isoquinoline.
A mixture of 2-(2-chloro-4-nitro-phenyl)-1,2,3,4-tetrahydro-isoquinoline (1.4 g, 4.8 mmol), saturated aqueous ammonium chloride (5 mL), and acetone (20 mL) was cooled in an ice bath. Solid zinc powder (3.2 g, 48 mmol) was added in portions over 10 min with stirring. The ice bath was allowed to expire and the mixture was stirred for 16 h. EtOAc (200 mL) was then added, followed by anhydrous sodium sulfate (20 g). The mixture was stirred for 15 min, then filtered through a pad of silica gel, eluting with EtOAc. The resulting clear solution was concentrated to afford the titled compound (1.2 g, 96%). 1H NMR (500 MHz, CDCl3): 7.20-7.11 (m, 3H), 7.11-7.04 (m, 1H), 6.95 (d, J=8.5 Hz, 1H), 6.78 (d, J=2.7 Hz, 1H), 6.56 (dd, J=8.5, 2.7 Hz, 1H), 4.17 (s, 2H), 3.55 (s, 2H), 3.27 (t, J=5.8 Hz, 2H), 3.00 (t, J=5.8 Hz, 2H).

reactant | 2-(2-chloro-4-nitro-phenyl)-1,2,3,4-tetrahydro-isoquinoline | 4.8 mmol, 1.4 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CC2=CC=CC=C2CC1 | C15H13ClN2O2
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | sodium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | zinc | 48 mmol, 3.2 g | [Zn] | Zn
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-(2-chloro-4-amino-phenyl)-1,2,3,4-tetrahydro-isoquinoline | 1.2 g, 96% | ClC1=C(C=CC(=C1)N)N1CC2=CC=CC=C2CC1 | C15H15ClN2
